US04250096
13.5 g (0.047 mol) of 4-(3-nitrophthalimidyl)aniline and 3.4 g (0.051 mol) of sodium azide in 120 ml of dimethylsulphoxide are heated for 18 hours at 80° C. The reaction mixture is then concentrated in vacuo at 80° C. and diluted with 100 ml of water, the mixture is filtered with suction and the filter residue is washed with 20 ml of water and dried for 24 hours in a drying cabinet at 80° C./100 mm Hg. 13.1 g (100% of theory) of 4-(3-azidophthalimidyl)-aniline are obtained; melting point 176° C. (with decomposition). IR spectrum (KBr): 1780 and 1725 cm-1 (CO--N--CO); 2130 cm-1 (N3).

reactant | 4-(3-nitrophthalimidyl)aniline | 0.047 mol, 13.5 g | [N+](=O)([O-])C1=C2C(C(=O)N(C2=O)C2=CC=C(N)C=C2)=CC=C1 | C14H9N3O4
reactant | sodium azide | 0.051 mol, 3.4 g | [N-]=[N+]=[N-].[Na+]
solvent | dimethylsulphoxide | 120 ml | CS(=O)C | C2H6OS
product | 4-(3-azidophthalimidyl)-aniline | 13.1 g, 100% | N(=[N+]=[N-])C1=C2C(C(=O)N(C2=O)C2=CC=C(N)C=C2)=CC=C1 | C14H9N5O2
